### PR TITLE
Add Erdős Problem 801 (dense small sets in graphs with small independence number), link the formal proof

### LINKED ISSUE #6250: Erdős Problem 801
### What is the Erdős problem?

https://www.erdosproblems.com/801

If $G$ is a graph on $n$ vertices containing no independent set on $>n^{1/2}$ vertices then there is a set of $\leq n^{1/2}$ vertices containing $\gg n^{1/2}\log n$ edges.

Status: proved (Alon). A formal proof exists in plby/lean-proofs (`Erdos801.erdos_801`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6250.

### What changed
Adds `FormalConjectures/ErdosProblems/801.lean` with:
- `erdos_801` (`research solved`, `answer(True)`): there is `c > 0` such that, for large `n`, every graph on `n` vertices with independence number `≤ √n` has a set `S` of at most `√n` vertices with `(G.induce S).edgeSet.ncard ≥ c √n log n` (Alon [Al96b]). Linked to plby/lean-proofs `Erdos801.erdos_801` (Codex and GPT-5.6 Sol; single Mathlib-only file).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos801.erdos_801` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby uses `Nat.sqrt`, `Nat.log 2` and a filtered edge count; the bridge converts via `map_edgeFinset_induce` and the elementary bounds `√n ≤ 2⌊√n⌋`, `log n ≤ 2 log 2 ⌊log₂ n⌋`):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph Finset

namespace Bridge801

lemma edgeCountInside_eq {n : ℕ} (G : SimpleGraph (Fin n)) (S : Finset (Fin n)) :
    Erdos801Plby.edgeCountInside G S = (G.induce (S : Set (Fin n))).edgeSet.ncard := by
  classical
  have h := map_edgeFinset_induce (G := G) (s := (S : Set (Fin n)))
  have h3 := congrArg Finset.card h
  rw [Finset.card_map] at h3
  have h2 : (G.induce (S : Set (Fin n))).edgeSet.ncard =
      (G.edgeFinset ∩ (S : Set (Fin n)).toFinset.sym2).card := by
    rw [Set.ncard_eq_toFinset_card']
    convert h3 using 2
    · simp [edgeFinset]
    · congr 2
      exact Finset.coe_injective (by simp)
  rw [h2]
  unfold Erdos801Plby.edgeCountInside Erdos801Plby.edgesInside
  congr 1
  · ext e
    induction e using Sym2.ind with
    | _ x y =>
      simp only [Finset.mem_filter, Finset.mem_inter, Finset.mem_sym2_iff, Sym2.toFinset_mk_eq,
        Finset.insert_subset_iff, Finset.singleton_subset_iff, Set.mem_toFinset, Finset.mem_coe,
        Sym2.mem_iff]
      constructor
      · rintro ⟨he, hx, hy⟩
        exact ⟨he, fun z hz => by rcases hz with rfl | rfl <;> assumption⟩
      · rintro ⟨he, hS⟩
        exact ⟨he, hS x (Or.inl rfl), hS y (Or.inr rfl)⟩

theorem erdos_801_bridge : type_of% Erdos801.erdos_801 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨C, N, hC, h⟩ := Erdos801Plby.erdos_801
  refine ⟨1 / (4 * C * Real.log 2), by positivity, ?_⟩
  filter_upwards [eventually_ge_atTop N, eventually_ge_atTop 4] with n hn hn4
  intro G hα
  have hα' : G.indepNum ≤ Nat.sqrt n := by
    rw [Nat.le_sqrt]
    have h1 : ((G.indepNum : ℝ)) ^ 2 ≤ (Real.sqrt (n : ℝ)) ^ 2 := by gcongr
    rw [Real.sq_sqrt (by positivity)] at h1
    have : G.indepNum ^ 2 ≤ n := by exact_mod_cast h1
    nlinarith
  obtain ⟨S, hS, hE⟩ := h n hn G hα'
  refine ⟨S, ?_, ?_⟩
  · exact (Nat.cast_le.2 hS).trans (Real.nat_sqrt_le_real_sqrt)
  · rw [← edgeCountInside_eq]
    have hE' : (Nat.sqrt n : ℝ) * Nat.log 2 n ≤ C * Erdos801Plby.edgeCountInside G S := by
      exact_mod_cast hE
    -- `√n ≤ 2 ⌊√n⌋` for `n ≥ 4`
    have hsqrt : √n ≤ 2 * (Nat.sqrt n : ℝ) := by
      have h1 : √n ≤ Nat.sqrt n + 1 := Real.real_sqrt_le_nat_sqrt_succ
      have h2 : (1 : ℝ) ≤ Nat.sqrt n := by
        have : 2 ≤ Nat.sqrt n := by rw [Nat.le_sqrt]; omega
        exact_mod_cast this.trans' (by norm_num)
      linarith
    -- `log n ≤ 2 log 2 ⌊log₂ n⌋` for `n ≥ 2`
    have hlog : Real.log n ≤ 2 * Real.log 2 * (Nat.log 2 n : ℝ) := by
      have h1 : (n : ℝ) < 2 ^ (Nat.log 2 n + 1) := by
        exact_mod_cast Nat.lt_pow_succ_log_self (by norm_num) n
      have h2 : Real.log n < (Nat.log 2 n + 1 : ℝ) * Real.log 2 := by
        have := Real.log_lt_log (by positivity) h1
        rw [Real.log_pow] at this
        push_cast at this
        exact this
      have h3 : (1 : ℝ) ≤ Nat.log 2 n := by
        have : 1 ≤ Nat.log 2 n := Nat.le_log_of_pow_le (by norm_num) (by omega)
        exact_mod_cast this
      nlinarith [Real.log_pos (by norm_num : (1 : ℝ) < 2)]
    have hpos : 0 < Real.log 2 := Real.log_pos (by norm_num)
    have hsq : (0 : ℝ) ≤ √n := Real.sqrt_nonneg _
    have hl : (0 : ℝ) ≤ Real.log n := Real.log_nonneg (by exact_mod_cast (by omega : 1 ≤ n))
    calc 1 / (4 * C * Real.log 2) * √n * Real.log n
        ≤ 1 / (4 * C * Real.log 2) * (2 * (Nat.sqrt n : ℝ)) * (2 * Real.log 2 * Nat.log 2 n) := by
          gcongr
      _ = (Nat.sqrt n : ℝ) * Nat.log 2 n / C := by field_simp; ring
      _ ≤ Erdos801Plby.edgeCountInside G S := by
          rw [div_le_iff₀ (by exact_mod_cast hC)]; linarith

end Bridge801
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«801»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/801.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/801.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks!
